US04130646
C. 1,2,3,4-Tetrahydro-2-[[4-(2-methoxyphenyl)-1-piperazinyl]methyl]-1-naphthalenol
3,4-Dihydro-2-[[4-(2-methoxyphenyl)-1-piperazinyl]methyl]-1(2H)-naphthalenone, dihydrochloride, hemihydrate (2.14 g) is dissolved in 40 ml of water and neutralized with 11.5 ml of 1N sodium hydroxide solution. The suspension is extracted with 200 ml methylene chloride and the organic extract is dried over anhydrous sodium sulfate, filtered and the solvent removed. The free base is then dissolved in 20 ml of methanol and cooled in an ice bath. While stirring, a solution of 0.5 ml of concentrated hydrochloric acid in 2.8 ml of water is added. The reaction vessel is removed from the ice bath and treated dropwise over a period of 10 minutes with a solution of 430 mg of sodium borohydride in 2.5 ml of water. The resulting suspension is stirred at room temperature for 90 minutes, followed by treatment with 30 ml of ice-water and stirring for an additional 5 to 10 minutes. The suspension is extracted with two 50 ml portions of methylene chloride. The organic phase is dried over anhydrous sodium sulfate, filtered and the solvent removed. The crude product is triturated with 40 ml of ether and the resulting precipitate filtered and washed with ether to yield 1.54 g of the title compound, melting point 151°-152° C.

reactant | 3,4-Dihydro-2-[[4-(2-methoxyphenyl)-1-piperazinyl]methyl]-1(2H)-naphthalenone, dihydrochloride | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CC1C(C2=CC=CC=C2CC1)=O
solvent | water | 40 ml | O | H2O
solvent | sodium hydroxide | 1N, 11.5 ml | [OH-].[Na+]
product | 1,2,3,4-Tetrahydro-2-[[4-(2-methoxyphenyl)-1-piperazinyl]methyl]-1-naphthalenol | 1.54 g | COC1=C(C=CC=C1)N1CCN(CC1)CC1C(C2=CC=CC=C2CC1)O | C22H28N2O2
